US07301032B2
900 mg of 5-(4-methylcyclohexyl)-3-methylthio-1,2,4-thiadiazole was dissolved in 8 ml of chloroform, 2.22 g of 3-chloroperoxybenzoic acid (content>65%) was added thereto taking for 20 minutes, and the reaction mixture was stirred for 4 hours at room temperature. Then, the reaction mixture was added to saturated sodium hydrogensulfite aqueous solution, and separated. The organic layer was washed with sodium hydrogencarbonate aqueous solution, dried over anhydrous sodium sulfate, concentrated to give 1.11 g of 3-methylsulfonyl-5-(4-methylcyclohexyl)-1,2,4-thiadiazole.

reactant | 5-(4-methylcyclohexyl)-3-methylthio-1,2,4-thiadiazole | 900 mg | CC1CCC(CC1)C1=NC(=NS1)SC | C10H16N2S2
reactant | 3-chloroperoxybenzoic acid | 2.22 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylsulfonyl-5-(4-methylcyclohexyl)-1,2,4-thiadiazole | 1.11 g | CS(=O)(=O)C1=NSC(=N1)C1CCC(CC1)C | C10H16N2O2S2
